US07087599B2
A mixture of 9a-butyl-7-methoxy-4-[4-(trifluoromethane-sulfonyloxy)-phenyl]-1,2,9,9a-tetrahydro-3H-fluoren-3-one (98.9 mg, 0.2 mmol), methyl (E)-3-tributylstannyl-acrylate (112.5 mg, 0.3 mmol) and lithium chloride (25.4 mg, 0.6 mmol) in anhydrous dimethylformamide (1.0 mL) was purged with nitrogen and treated with bis(triphenylphosphine)palladium(II) chloride (7.0 mg, 0.01 mmol). The resulting mixture was purged with nitrogen then stirred under a nitrogen atmosphere with heating in an oil bath at 90° C. for 60 minutes. After cooling, the solvent was evaporated under vacuum. The residue in EtOAc (10 mL) was washed with water (2×5 mL) and brine (5 ml), dried over MgSO4, filtered, and evaporated under vacuum to a gum (194 mg). The crude product was purified by preparative layer chromatography (PLC) on two 0.1×20×20 cm silica gel GF plates, developing with 4:1-hexanes-EtOAc. The major UV visible band at Rf 0.15-0.25 was eluted with EtOAc and the solvent evaporated under vacuum to afford methyl (2E)-3-[4-(9a-butyl-7-methoxy-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-4-yl)phenyl]-2-propenoate (83 mg) as a pale yellow solid. NMR showed approximately 7-8% of a Bu3SnX impurity.

reactant | 9a-butyl-7-methoxy-4-[4-(trifluoromethane-sulfonyloxy)-phenyl]-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.2 mmol, 98.9 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)OC | C25H25F3O5S
reactant | methyl (E)-3-tributylstannyl-acrylate | 0.3 mmol, 112.5 mg | C(CCC)[Sn](/C=C/C(=O)OC)(CCCC)CCCC
reactant | lithium chloride | 0.6 mmol, 25.4 mg | [Cl-].[Li+]
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.01 mmol, 7.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl (2E)-3-[4-(9a-butyl-7-methoxy-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-4-yl)phenyl]-2-propenoate | 83 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)/C=C/C(=O)OC)OC | C28H30O4
